US08026234B2
Ethyl 2-((cyclopentylamino)methyl)-2-fluorobutanoate:
A solution of ethyl 2-((benzyl(cyclopentyl)amino)methyl)-2-fluorobutanoate (2.2 g, 6.8 mmol) in ethanol (20 mL) was hydrogenated with Pd(OH)2 (20%, 240 mg, 0.34 mmol) in presence of TFA (6.8 mmol) at atmospheric pressure for 20 h. The reaction mixture was filtered through celite. The filtrate was concentrated and diluted to EtOAc/H2O, aqueous layer was basified to pH=11-12 by 1N NaOH. The organic layer was then dried and concentrated to give the product (1.38 g, 88%) as light yellow liquid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.95 (t, J=7.6 Hz, 3H) 1.31 (t, J=7.1 Hz, 4H) 1.41-1.94 (m, 9H) 2.88-3.08 (m, 3H) 4.26 (qd, J=7.12, 2.40 Hz, 2H). [M+H] calc'd for C12H22FNO2, 232. found 232.

reactant | ethyl 2-((benzyl(cyclopentyl)amino)methyl)-2-fluorobutanoate | 6.8 mmol, 2.2 g | C(C1=CC=CC=C1)N(C1CCCC1)CC(C(=O)OCC)(CC)F | C19H28FNO2
reactant | TFA | 6.8 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd(OH)2 | 0.34 mmol, 240 mg | [OH-].[OH-].[Pd+2]
product | Ethyl 2-((cyclopentylamino)methyl)-2-fluorobutanoate | 1.38 g, 88% | C1(CCCC1)NCC(C(=O)OCC)(CC)F | C12H22FNO2
